US07202367B2
Preparation of 3,5-dimethylphenyl 2-pyridyl ether
General procedure A (110° C., 24 hours) was followed using 117 mg of Chxn-Py-Al (0.4 mmoles), 292 μl of 2-bromopyridine (3 mmoles), 244 mg of 3,5-dimethylphenol (2 mmoles), 600 mg of ground and activated 3 Å molecular sieve and 1.2 ml of DMF.

reactant | 2-bromopyridine | 3 mmoles, 292 μl | BrC1=NC=CC=C1 | C5H4BrN
reactant | 3,5-dimethylphenol | 2 mmoles, 244 mg | CC=1C=C(C=C(C1)C)O | C8H10O
solvent | DMF | 1.2 ml | CN(C)C=O | C3H7NO
product | 3,5-dimethylphenyl 2-pyridyl ether | N1=C(C=CC=C1)OC1=CC(=CC(=C1)C)C | C13H13NO
